US06677364B2
A solution of 3-[(4-methoxy)tetrahydropyran-4-yl]-α-bromotoluene (1.0 g, 3.87 mmol) in 10 mL of anhydrous THF was cooled to 5° C. A solution of methyl thioglycolate (0.41 g, 3.87 mmol) and DBU (0.59 g, 3.87 mmol) in 10 mL of THF was added while maintaining the temperature at 5° C. The reaction mixture was stirred for 2 h at room temperature. The reaction mixture was diluted with 250 mL of ethyl acetate, and the organic layer was washed with 1 N HCl (2×100 mL), saturated sodium bicarbonate (1×100 mL), brine (1×100 mL), dried over magnesium sulfate, filtered and concentrated. The concentrated residue was purified by flash column chromatography on silica gel, eluting with 40% ethyl acetate in hexane, to give 0.87 g (72%) of methyl 3-[(4-methoxy)-tetrahydropyran-4-yl]phenyl-methylthioacetate as a clear oil: 1H NMR (CDCl3/300 MHz) δ 1.94-2.09 (m, 4H), 2.97 (s, 3H), 3.08 (s, 2H), 3.73 (s, 3H), 3.77-3.92 (m, 6H), 7.26-7.36 (m, 4H). HRMS calcd for C16H22O4S 311.1317. Found 311.1271.

reactant | 3-[(4-methoxy)tetrahydropyran-4-yl]-α-bromotoluene | 3.87 mmol, 1.0 g | COC1(CCOCC1)C=1C=C(C=CC1)CBr | C13H17BrO2
reactant | methyl thioglycolate | 3.87 mmol, 0.41 g | C(CS)(=O)OC | C3H6O2S
reactant | DBU | 3.87 mmol, 0.59 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | methyl 3-[(4-methoxy)-tetrahydropyran-4-yl]phenyl-methylthioacetate | 0.87 g, 72% | COC1(CCOCC1)C=1C=C(C=CC1)C(C(=S)OC)C | C16H22O3S
